US09303015B2
2-(4-Cyanophenoxy)acetyl chloride
To a suspension of commercially available 2-(4-cyanophenoxy)acetic acid (4.0 g, 22.6 mmol) in dichloromethane (80 mL) was added oxalyl dichloride (2.17 mL, 24.8 mmol). To this mixture was added N,N-dimethylformamide (30 μL) dropwise and stirred for 2 hours during which cessation of evolution of gas was observed. The resulting solution was diluted with dichloromethane (50 mL) and the solvent was removed under reduced pressure to provide the title compound as an oil which became a solid upon storing in the refrigerator.

reactant | 2-(4-cyanophenoxy)acetic acid | 22.6 mmol, 4.0 g | C(#N)C1=CC=C(OCC(=O)O)C=C1 | C9H7NO3
reactant | oxalyl dichloride | 24.8 mmol, 2.17 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 30 μL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-(4-Cyanophenoxy)acetyl chloride | C(#N)C1=CC=C(OCC(=O)Cl)C=C1 | C9H6ClNO2
